### PR TITLE
Add Erdős Problem 391 (decomposing n! into n large factors), link the formal proofs

### LINKED ISSUE #6181: Erdős Problem 391
### What is the Erdős problem?

https://www.erdosproblems.com/391

Let $t(n)$ be maximal such that there is a representation $n!=a_1\cdots a_n$ with $t(n)=a_1\leq \cdots \leq a_n$. Is it true that $\lim t(n)/n = 1/e$? Does there exist $c>0$ such that $t(n)/n \leq 1/e - c/\log n$ for infinitely many $n$?

Status: proved (Lean). Both answered by Alexeev–Conway–Rosenfeld–Sutherland–Tao–Uhr–Ventullo; a formal proof exists in plby/lean-proofs (`Erdos391.erdos_391`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6181.

### What changed
Adds `FormalConjectures/ErdosProblems/391.lean` with `t n` (the largest `t` such that `n!` is a product of `n` factors all `≥ t`, i.e. the maximal smallest factor) and:
- `erdos_391` (`research solved`, `answer(True)`): `t(n)/n → 1/e`.
- `erdos_391.variants.deficit` (`answer(True)`): `t(n)/n ≤ 1/e − c/log n` for infinitely many `n`.

Both by Alexeev–Conway–Rosenfeld–Sutherland–Tao–Uhr–Ventullo [ACRSTUV25]; linked to plby/lean-proofs `Erdos391.erdos_391` (Codex and GPT-5.6 Sol; 5 Mathlib-only files, including a Mertens-type estimate).

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos391.erdos_391` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against both statements on top of a renamed copy, same axioms. plby's `t` is a `Nat.findGreatest` over sorted representations; the bridge shows the `sSup` definition here agrees for `n ≥ 1` (sorting an unsorted witness via plby's `feasible_of_unsorted`), which suffices for the limit and the infinitude statement:

<details>
<summary>Bridge</summary>

```lean
open Filter Topology

namespace Bridge391

/-- For `n ≥ 1` the two definitions of `t n` agree. -/
lemma t_eq {n : ℕ} (hn : 0 < n) : Erdos391.t n = Erdos391Plby.t n := by
  unfold Erdos391.t
  apply le_antisymm
  · apply csSup_le'
    rintro k ⟨a, hprod, hk⟩
    rcases Nat.eq_zero_or_pos k with rfl | hkpos
    · exact Nat.zero_le _
    · have hpos : ∀ i, 0 < a i := fun i => lt_of_lt_of_le hkpos (hk i)
      exact Erdos391Plby.feasible_le_t hn
        (Erdos391Plby.feasible_of_unsorted hkpos a hpos hprod hk)
  · obtain ⟨-, a, ⟨_, _, hprod⟩, hk⟩ := Erdos391Plby.t_feasible hn
    refine le_csSup ⟨n.factorial, ?_⟩ ⟨a, hprod, hk⟩
    rintro k ⟨b, hbprod, hkb⟩
    rcases Nat.eq_zero_or_pos k with rfl | hkpos
    · exact Nat.zero_le _
    · have hpos : ∀ i, 0 < b i := fun i => lt_of_lt_of_le hkpos (hkb i)
      exact Erdos391Plby.feasible_le_factorial hn
        (Erdos391Plby.feasible_of_unsorted hkpos b hpos hbprod hkb)

lemma ratio_eventuallyEq :
    (fun n : ℕ => (Erdos391.t n : ℝ) / n) =ᶠ[atTop] Erdos391Plby.ratio := by
  filter_upwards [eventually_gt_atTop 0] with n hn
  simp [Erdos391Plby.ratio, t_eq hn]

theorem erdos_391_bridge : type_of% Erdos391.erdos_391 := by
  show True ↔ _
  simp only [true_iff]
  exact Erdos391Plby.erdos_391.1.congr' ratio_eventuallyEq.symm

theorem deficit_bridge : type_of% Erdos391.erdos_391.variants.deficit := by
  show True ↔ _
  simp only [true_iff]
  obtain ⟨c, hc, hinf⟩ := Erdos391Plby.erdos_391.2
  refine ⟨c, hc, ?_⟩
  have hsub : {n : ℕ | Erdos391Plby.ratio n ≤ 1 / Real.exp 1 - c / Real.log n} \ {0} ⊆
      {n : ℕ | (Erdos391.t n : ℝ) / n ≤ 1 / Real.exp 1 - c / Real.log n} := by
    rintro n ⟨hn, hn0⟩
    have : 0 < n := Nat.pos_of_ne_zero (by simpa using hn0)
    simpa [Erdos391Plby.ratio, t_eq this] using hn
  exact (hinf.sdiff (Set.finite_singleton 0)).mono hsub

end Bridge391
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«391»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/391.lean [hunk 1]
```diff
@@ -0,0 +1,87 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/391.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
